US04216148
To a mixture of 15.0 g. of N-methylpiperazine, 6.3 g. of titanium tetrachloride and 7 ml. of anisole in 67 ml. of toluene is added a mixture of 7.6 g. of N-methylpiperazine and 7.1 g. of 4H-thieno[3,4-b][1,4]benzodiazepin-9(10H)-one in 7 ml. of toluene. This mixture is stirred and refluxed for 2 hours, cooled and 11 ml. of 2-propanol, 5 g. of diatomaceous earth and 10.2 ml. of ammonium hydroxide are added. The mixture is filtered and the solid washed with toluene. The toluene filtrate and washings are washed with water, the toluene layer is separated and extracted with three 150 ml. portions of 3 N hydrochloric acid. The acidic extracts are combined, cooled, made alkaline with ammonium hydroxide and extracted with dichloromethane. This extract is dried, filtered, evaporated to 75 ml. and filtered through magnesium silicate. This filtrate is evaporated giving 9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4 ]benzodiazepine.

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | 4H-thieno[3,4-b][1,4]benzodiazepin-9(10H)-one | C=1SC=C2NC3=C(C(NC21)=O)C=CC=C3 | C11H8N2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | 2-propanol | CC(C)O | C3H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4 ]benzodiazepine | CN1CCN(CC1)C1=NC=2C(NC3=C1C=CC=C3)=CSC2 | C16H18N4S
